US07381567B2
1-(2-Benzofuryl)-4,4,5,5,6,6,6-heptafluoro-1,3-hexanedione
The compound was synthesized according to example 1 using 2-acetylbenzofuran and ethyl heptafluorobutyrate as starting materials. The product was crystallized from petroleum ether. 1H NMR (CDCl3): 6.74 (s, 1 H); 7.35 (ddd, 1H, J=0.9 & 7.2 & 8.0 Hz); 7.52 (ddd, 1H, J=1.3 & 7.2 & 8.4 Hz); 7.58-7.61 (m, 1 H); 7.68 (d, 1H, J=0.9 Hz); 7.71-7.74 (m, 1 H). IR (film): 1614 (C═O); 1232 (C—F).

reactant | 2-acetylbenzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O2
reactant | ethyl heptafluorobutyrate | FC(C(C(C(=O)OCC)(F)F)(F)F)(F)F | C6H5F7O2
product | 1-(2-Benzofuryl)-4,4,5,5,6,6,6-heptafluoro-1,3-hexanedione | O1C(=CC2=C1C=CC=C2)C(CC(C(C(C(F)(F)F)(F)F)(F)F)=O)=O | C14H7F7O3
